US07781443B2
(2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-ethoxycarbonyl-methoxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (128 mg) is dissolved in methanol (3 ml), then thereto is added 1M aqueous sodium hydroxide solution (2 ml), and the mixture is stirred at room temperature for 2 hours. To the reaction mixture is added 10% aqueous citric acid solution, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; chloroform:methanol=19:1) to give (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-carboxymethoxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (100 mg). MS (m/z): 658 [M+H]+

reactant | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-ethoxycarbonyl-methoxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 128 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC(=C(C(=N1)OC)C(=O)OCC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C31H33F6N5O6
reactant | sodium hydroxide | 1M, 2 ml | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 3 ml | CO | CH4O
product | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-carboxymethoxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 100 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)OCC(=O)O)CC | C29H29F6N5O6
